US04665206
A mixture of 5,6-dimethoxy-benzo[b]thiophene-2-carboxylic acid (68.8 g), dry toluene (350 ml), thionyl chloride (126 ml) and pyridine (1.75 ml) was stirred and heated at reflux for 4 hours. The resultant mixture was cooled, evaporated to dryness under vacuum and the residue was purged with dry toluene (3×250 ml). The resulting crude acid chloride was suspended in dioxan (160 ml) then cooled in an ice bath and treated in one portion with concentrated ammonium hydroxide solution (33% w/w, 900 ml). This gave a suspension of brown solid which was stirred for two hours then filtered, washed with water and dried under vacuum over calcium chloride at 60° C. to give 5,6-dimethoxybenzo[b]thiophene-2-carboxamide (62.5 g), m.p. 211°-213° C.

reactant | 5,6-dimethoxy-benzo[b]thiophene-2-carboxylic acid | 68.8 g | COC1=CC2=C(SC(=C2)C(=O)O)C=C1OC | C11H10O4S
reactant | toluene | 350 ml | C1(=CC=CC=C1)C | C7H8
reactant | thionyl chloride | 126 ml | S(=O)(Cl)Cl | Cl2OS
reactant | pyridine | 1.75 ml | N1=CC=CC=C1 | C5H5N
product | 5,6-dimethoxybenzo[b]thiophene-2-carboxamide | 62.5 g | COC1=CC2=C(SC(=C2)C(=O)N)C=C1OC | C11H11NO3S
